US07282605B2
(R)-N-Octanoyl-1-phenylethylamine
A solution of 50.0 g (412.6 mmol) of (R)-1-phenylethylamine and 41.75 g (412.6 mmol) of triethylamine in 750 ml of toluene was cooled to 0° C., and 73.85 g (453.9 mmol) of octanoyl chloride was added dropwise thereto. After completion of the addition, the reaction was allowed to proceed at room temperature for 3 hours. The reaction mixture was again cooled to 0° C. and then the reaction was terminated by addition of 200 ml of 10% hydrochloric acid. The toluene phase was separated, washed with 300 ml of a 10% aqueous solution of sodium hydroxide, and dried over anhydrous sodium sulfate. The solvent was then distilled off, and the residue was quantitated by HPLC. Thus was obtained 19.81 g (97%) of the title compound.

reactant | (R)-1-phenylethylamine | 412.6 mmol, 50.0 g | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | triethylamine | 412.6 mmol, 41.75 g | C(C)N(CC)CC | C6H15N
reactant | octanoyl chloride | 453.9 mmol, 73.85 g | C(CCCCCCC)(=O)Cl | C8H15ClO
solvent | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-N-Octanoyl-1-phenylethylamine | 19.81 g, 97% | C(CCCCCCC)(=O)N[C@H](C)C1=CC=CC=C1 | C16H25NO
